
// Library name: afe_sch
// Cell name: afe_bias
// View name: schematic
subckt afe_bias vbias vdd vss
    Mbb (vbias vbias vss vss) nch_lvt_mac l=16.0n nfin=16 w=730.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    Mba (vbias vbias vss vss) nch_lvt_mac l=16.0n nfin=16 w=730.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
Rb (vdd vbias ) rhim l=2.35u w=360.0n multi=(1)

    Cdec16 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec15 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec14 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec13 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec12 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec11 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec10 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec9 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec8 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec7 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec6 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec5 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec4 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec3 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec2 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec1 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
ends afe_bias
// End of subcircuit definition.

// Library name: afe_sch
// Cell name: afecmp_bank
// View name: schematic
subckt afecmp_bank az eval gp outn outp vbias vdd vin vref vss
    C2 (vref gn) capacitor c=80f
    C1 (pA gp) capacitor c=80f
    Rbgn (gn vss) resistor r=1T
    Rbgp (gp vss) resistor r=1T
    RbpA (pA vss) resistor r=1T
    MN2n (outp s1n t2 vss) nch_ulvt_mac l=16.0n nfin=6 w=250.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    MN2p (outn s1p t2 vss) nch_ulvt_mac l=16.0n nfin=6 w=250.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    MazGn (gn az vbias vss) nch_ulvt_mac l=16.0n nfin=8 w=346.00n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    MazGp (gp az vbias vss) nch_ulvt_mac l=16.0n nfin=8 w=346.00n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    MazA (pA az vref vss) nch_ulvt_mac l=16.0n nfin=8 w=346.00n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    Msw (pA eval vin vss) nch_ulvt_mac l=16.0n nfin=8 w=346.00n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    MNn (s1p gn tA vss) nch_lvt_mac l=16.0n nfin=8 w=346.00n multi=1 nf=1 \
        sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 plodb1=16.0n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=61.0n spob=61.0n spotl1=61.0n spobl1=61.0n spotl2=61.0n \
        spobl2=61.0n spotr1=61.0n spobr1=61.0n spotr2=61.0n spobr2=61.0n
    MNp (s1n gp tA vss) nch_lvt_mac l=16.0n nfin=8 w=346.00n multi=1 nf=1 \
        sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 plodb1=16.0n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=61.0n spob=61.0n spotl1=61.0n spobl1=61.0n spotl2=61.0n \
        spobl2=61.0n spotr1=61.0n spobr1=61.0n spotr2=61.0n spobr2=61.0n
    ML2n (outn outn vdd vdd) pch_svt_mac l=16.0n nfin=2 w=58.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=103.00n spob=103.00n spotl1=103.00n \
        spobl1=103.00n spotl2=103.00n spobl2=103.00n spotr1=103.00n \
        spobr1=103.00n spotr2=103.00n spobr2=103.00n
    ML2p (outp outp vdd vdd) pch_svt_mac l=16.0n nfin=2 w=58.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=103.00n spob=103.00n spotl1=103.00n \
        spobl1=103.00n spotl2=103.00n spobl2=103.00n spotr1=103.00n \
        spobr1=103.00n spotr2=103.00n spobr2=103.00n
    MLn (s1n s1n vdd vdd) pch_svt_mac l=16.0n nfin=2 w=58.0n multi=1 nf=1 \
        sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 plodb1=16.0n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103.00n spob=103.00n spotl1=103.00n spobl1=103.00n \
        spotl2=103.00n spobl2=103.00n spotr1=103.00n spobr1=103.00n \
        spotr2=103.00n spobr2=103.00n
    MLp (s1p s1p vdd vdd) pch_svt_mac l=16.0n nfin=2 w=58.0n multi=1 nf=1 \
        sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 plodb1=16.0n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103.00n spob=103.00n spotl1=103.00n spobl1=103.00n \
        spotl2=103.00n spobl2=103.00n spotr1=103.00n spobr1=103.00n \
        spotr2=103.00n spobr2=103.00n
    Msh (outp az outn vss) nch_svt_mac l=16.0n nfin=2 w=58.0n multi=1 nf=1 \
        sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 plodb1=16.0n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103.00n spob=103.00n spotl1=103.00n spobl1=103.00n \
        spotl2=103.00n spobl2=103.00n spotr1=103.00n spobr1=103.00n \
        spotr2=103.00n spobr2=103.00n
    Mtail2 (t2 eval vss vss) nch_svt_mac l=16.0n nfin=6 w=250.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    Mtail (tA eval vss vss) nch_svt_mac l=16.0n nfin=8 w=346.00n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
ends afecmp_bank
// End of subcircuit definition.

// Library name: afe_sch
// Cell name: tb_afe_cmp_mc
// View name: schematic
Vaz (az 0) vsource type=sine
Veval (eval 0) vsource type=sine
Vvin (vin 0) vsource type=sine
Vvref (vref 0) vsource type=sine
Vvss (vss 0) vsource type=sine
Vvdd (vdd 0) vsource type=sine
Xbias (vbias vdd vss) afe_bias
Xcmp (az eval gp outn outp vbias vdd vin vref vss) afecmp_bank
